US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.2 mmol) with (±)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-benzylamine (515 mg, 2.3 mmol) in toluene (10 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1, 5:1 and 3:1) followed by SCX chromatography [pre-wash column with methanol followed by DCM, load material dissolved in DCM, then elute with DCM/2M ammonia in methanol (1:1) and concentrate in vacuo] to give (±)-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (530 mg, 90%). GC-MS m/z: 494 (M+).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.2 mmol, 500 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-benzylamine | 2.3 mmol, 515 mg | FC(C(OC1=CC=C(CN)C=C1)C)(F)F | C10H12F3NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 530 mg, 90% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)OC(C(F)(F)F)C | C22H21ClF6N2O2
